US09259470B2
Sodium carbonate (4.24 g, 40.0 mmol) was added to 2-fluoropyridin-4-ylboronic acid (2.26 g, 16.0 mmol) and 6-chloro-N-(tetrahydro-2H-pyran-4-yl)pyrimidin-4-amine (2.85 g, 13.3 mmol) in 4:1 dioxane/water (100 mL), and the suspension was purged with argon. PdCl2(dppf)*DCM (0.545 g, 0.667 mmol) was added, and the mixture was heated at 80° C. under nitrogen. After agitating for 6 hours, the reaction mixture was cooled, diluted with water and extracted with ethyl acetate two times. The extract was washed with water, brine, dried and evaporated. Purified by chromatography on silica gel, eluted with 50-70% ethyl acetate/hexane to give 6-(2-fluoropyridin-4-yl)-N-(tetrahydro-2H-pyran-4-yl)pyrimidin-4-amine (2.50 g, 9.11 mmol, 68.3% yield) as a solid.

reactant | Sodium carbonate | 40.0 mmol, 4.24 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 2-fluoropyridin-4-ylboronic acid | 16.0 mmol, 2.26 g | FC1=NC=CC(=C1)B(O)O | C5H5BFNO2
reactant | 6-chloro-N-(tetrahydro-2H-pyran-4-yl)pyrimidin-4-amine | 13.3 mmol, 2.85 g | ClC1=CC(=NC=N1)NC1CCOCC1 | C9H12ClN3O
reactant | dioxane water | 100 mL | O1CCOCC1.O
solvent | water | O | H2O
catalyst | PdCl2(dppf) | 0.667 mmol, 0.545 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 6-(2-fluoropyridin-4-yl)-N-(tetrahydro-2H-pyran-4-yl)pyrimidin-4-amine | 9.11 mmol, 2.50 g, 68.3% yield | FC1=NC=CC(=C1)C1=CC(=NC=N1)NC1CCOCC1 | C14H15FN4O
